data/oMe_Silver.jsonl
{"reaction_id": "NR-101_1-c3ccc(F)cc3_2-C(=O)OCC","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(c3ccc(F)cc3)(C(=O)OCC)","BrBr"],"products_smiles": ["C(Br)CC(c3ccc(F)cc3)(C(=O)OCC)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(c3ccc(F)cc3)(C(=O)OCC)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(c3ccc(F)cc3)(C(=O)OCC)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(c3ccc(F)cc3)(C(=O)OCC)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
{"reaction_id": "NR-325_1-c1ccccc1_2-CC1CCCC1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(c1ccccc1)CC1CCCC1","NN","[OH-]"],"products_smiles": ["C(c1ccccc1)CC1CCCC1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1ccccc1)CC1CCCC1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(c1ccccc1)CC1CCCC1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(c1ccccc1)CC1CCCC1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](c1ccccc1)CC1CCCC1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)CC1CCCC1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
{"reaction_id": "NR-115_10-C(C)C_1-F_2-c1cnccc1_3-c1ccc(C(F)(F)F)cc1_4-CCCC_5-C1CCCCC1_6-C1CCCCC1_7-Cl_8-C(C)C_9-CC","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1ccc(C(F)(F)F)cc1)C(O/C(=C(/C1CCCCC1)Cl)/O[Si](C(C)C)(CC)(C(C)C))(C1CCCCC1)CCCC)(F)c1cnccc1"],"products_smiles": ["C(=C(c1ccc(C(F)(F)F)cc1)C(C(C(=O)O[Si](C(C)C)(CC)(C(C)C))(Cl)C1CCCCC1)(C1CCCCC1)CCCC)(F)c1cnccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1ccc(C(F)(F)F)cc1)C(C(C(=O)O[Si](C(C)C)(CC)(C(C)C))(Cl)C1CCCCC1)(C1CCCCC1)CCCC)(F)c1cnccc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
